US06972340B2
methyl 3-bromo-2,6-dihydroxybenzoate
To a mixture of methyl-2,6-dihydroxybenzoate (1.68 g, 10.0 mmol) in dichloromethane (10 mL) was added acetic acid (1 mL), followed by drop-wise addition of bromine (515 μL, 10.0 mmol) in dichloromethane (5 mL). The reaction mixture was stirred at ambient temperature for 1 hour, concentrated under reduced pressure, co-evaporated with ethyl acetate (2×). The resulting solid was triturated with hexane/ethyl acetate and re-crystallized from hot hexane/ethyl acetate to provide the titled compound (1.45 g). MS ESI(−,) m/e 244, 246 (M−H)+; 1H NMR (300 MHz, DMSO-d6) δ 10.45 (s, 1H), 10.19 (s, 1H), 7.46 (d, 1H), 6.41 (d, 1H), 3.84 (s, 3H).

reactant | methyl-2,6-dihydroxybenzoate | 10.0 mmol, 1.68 g | COC(C1=C(C=CC=C1O)O)=O | C8H8O4
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | bromine | 10.0 mmol, 515 μL | BrBr | Br2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | methyl 3-bromo-2,6-dihydroxybenzoate | 1.45 g | BrC=1C(=C(C(=O)OC)C(=CC1)O)O | C8H7BrO4
